Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Celebrex
 
Attending: ___.
 
Chief Complaint:
Loss of Consciousness 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: ___ physician ___ iliopsoas sarcoma s/p resection, HTN 
p/w LOC.
Patient was in USOH until dinner on day of presentation when she
suddenly started to feel unwell. She is not able to describe 
this
sensation very well but denies frank vertigo or LOC. Her
companion at lunch thought she looked pale and felt like she was
not entirely there mentally based on the look of her eyes. She
continued in this state for about 30 minutes, including
conversing about the food, after which she had LOC. This LOC
lasted about ?30 minutes as well. Husband reports she was just 
sitting in her chair, appearing comfortable. Patient was noted 
to be
breathing throughout this event. 911 was called, and ambulance
picked her up. Patient does not recall the LOC and recalls only
waking up alert in the emergency room. She denies any preceding
CP/SOB/f/c/nv/d/rash/joint 
___
medications/etoh/poor PO (other than the fact that she didn't
have dinner)/sick contacts/abd pain/melena/diarrhea. She reports
similar LOC episodes have happened remotely but they never last
longer than 5 minutes, and haven't occurred for a long time. No
urinary incontinence or stool incontinence or tongue biting. No
FHx SCD. 

In ED, 
96.8  66  146/71  27 97% RA 
vitals over time came to 98.0 70 175/68 16 96%RA
non-labored breathing, RRR w/o murmur, mild LLQ tenderness, 
neuro
CNs intact, normal speech/giit, subjective dizziness upon
standing w/o orthostatic changes

Recevied CTX 1g, LR 1000, quinapril 40mg, APAP 650.

ROS: positive or negative as above, otherwise negative in 12
systems

 
Past Medical History:
HTN
sarcoma of iliopsoas muscle, s/p resection years ago
HTN
previous treatment for possible PMR, trialed on steroids without
benefit
HLD
H pylori gastritis, s/p treatment
possible mild cognitive impairment
R TKR w residual pain
 
Social History:
___
Family History:
FH:
The patient's mother died from ___ disease.  Father was
killed in the Second World War. No heart dz. 
otherwise reviewed and non-contributory to current presentation
 
Physical Exam:
Patient was seen and examined on day of discharge ___ at 9AM. 

Constitutional: VS reviewed, NAD, pleasant
HEENT: eyes anicteric, normal hearing, nose unremarkable, MMM
without exudate, no tongue bite
CV: RRR, II/VI SEM best at base
Resp: CTAB
GI: s, nd, NABS, mild TTP RLQ, LLQ
GU: neg CVAT
MSK: no leg pain or swelling. 
Ext: wwp, neg edema in BLEs
Skin: no rash grossly visible
Neuro: A&O to person/place but NOT date , CN II-XII intact, 2+ 
biceps/triceps/ankles DTRs, 2+ L knee DTR,
___: normal affect, pleasant

 
Pertinent Results:
___ 06:20AM BLOOD WBC-6.4 RBC-3.38* Hgb-9.9* Hct-31.7* 
MCV-94 MCH-29.3 MCHC-31.2* RDW-14.3 RDWSD-48.6* Plt ___

___ 06:20AM BLOOD Glucose-84 UreaN-23* Creat-1.2* Na-146 
K-4.5 Cl-106 HCO3-27 AnGap-13
___ 06:20AM BLOOD ALT-12 AST-15 LD(LDH)-158 AlkPhos-77 
TotBili-0.4. 

Tele: NSR for ~1 day of monitoring. 

Chest xray ___
Heart size is normal.  The mediastinal and hilar contours are 
normal. The 
pulmonary vasculature is normal. Lungs are clear.  No pleural 
effusion or 
pneumothorax is seen. There are no acute osseous abnormalities.  
Bridging 
anterior osteophytes are seen in the thoracic spine. 
  
IMPRESSION:  
  
No acute cardiopulmonary abnormality. 
  
___ CT A/P
IMPRESSION: 
1. No acute intra-abdominal or intrapelvic process to account 
for the 
patient's symptoms. 
2. Extensive colonic diverticulosis without evidence of 
diverticulitis. 

EEG ___
FINDINGS:  
ABNORMALITY 1: Two bursts lasting ___ seconds each were seen in 
full 
wakefulness consisting of moderately high to high voltage 2 Hz 
slowing without 
sharp components, with bifrontal voltage predominance. 
  
BACKGROUND: The background activity shows a well-organized and 
well-sustained, 
symmetric, moderate voltage posterior dominant rhythm reaching 
10 Hz, and 
attenuating with eye opening. There is moderate superimposed low 
voltage 
frontally predominant beta fast activity. 
  
HYPERVENTILATION: Hyperventilation is performed for 180 seconds 
with good 
cooperation, and produces no abnormal activation of the record. 
  
INTERMITTENT PHOTIC STIMULATION: Was not performed. 
  
SLEEP: During drowsiness, the posterior dominant rhythm slows 
and becomes more 
intermittent, and theta range slowing appears diffusely. The 
patient failed to 
enter stage 2 sleep. 
  
CARDIAC MONITOR: Shows a generally regular rhythm with an 
average rate 60-70 
bpm. 
  
IMPRESSION: This is an abnormal routine EEG with brief bursts of 
bifrontally 
predominant delta slowing in the awake state. This would suggest 
subcortical 
or deeper midline irritability and in its configuration might 
suggest vascular 
insufficiency of acute or chronic nature. No focal abnormalities 
or 
epileptiform discharges are seen, and sleep stage 1 was achieved 
without 
abnormalities. 

___ TTE
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color
Doppler. The estimated right atrial pressure is ___ mmHg. There 
is normal left ventricular wall thickness
with a normal cavity size. There is normal regional and global 
left ventricular systolic function.
Quantitative biplane left ventricular ejection fraction is 64 % 
(normal 54-73%). There is no left
ventricular outflow tract gradient at rest or with Valsalva. 
Tissue Doppler suggests an increased left
ventricular filling pressure (PCWP greater than 18 mmHg). There 
is Grade I diastolic dysfunction.
Normal right ventricular cavity size with normal free wall 
motion. Tricuspid annular plane systolic
excursion (TAPSE) is normal. The aortic sinus diameter is normal 
for gender with normal ascending
aorta diameter for gender. The aortic arch diameter is normal 
with a normal descending aorta diameter.
The aortic valve leaflets (3) are mildly thickened. There is 
minimal aortic valve stenosis. There is mild
[1+] aortic regurgitation. The mitral valve leaflets are mildly 
thickened with no mitral valve prolapse.
There is moderate mitral annular calcification. There is mild 
[1+] mitral regurgitation. Due to acoustic
shadowing, the severity of mitral regurgitation could be 
UNDERestimated. The pulmonic valve leaflets
are normal. The tricuspid valve leaflets appear structurally 
normal. There is mild [1+] tricuspid
regurgitation. There is mild pulmonary artery systolic 
hypertension. There is no pericardial effusion.
IMPRESSION: No structural cardiac cause of syncope identified.

___ Duplex LLE
FINDINGS:  
  
There is normal compressibility, color flow, and spectral 
doppler of the left 
common femoral, femoral, and popliteal veins. Normal color flow 
and 
compressibility are demonstrated in the posterior tibial and 
peroneal veins. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
No evidence of medial popliteal fossa (___) cyst.  In the area 
of pain there 
is an artery noted without aneurysm. 
  
IMPRESSION:  
  
No evidence of deep venous thrombosis in the left lower 
extremity veins. 

___ CT head
FINDINGS:  
  
Age-related involutional changes are fairly mild.  There is no 
mass effect, 
hydrocephalus or shift of normally midline structures.  
Gray-white matter 
distinction appears preserved.  There is no evidence of 
intracranial 
hemorrhage.  Surrounding soft tissue structures are 
unremarkable.  Visualized 
paranasal sinuses and mastoid air cells appear clear.  No 
evidence of fracture 
or bone destruction. 
  
IMPRESSION:  
  
No evidence of acute intracranial process. 

 
Brief Hospital Course:
A/P: ___ w remote iliopsoas sarcoma, HTN who presents with 30
minutes malaise followed by 30 minutes of ?loss of 
consciousness. Exact diagnosis is unclear.

ACUTE/ACTIVE PROBLEMS:
# malaise x30 minutes
# ? LOC x30 minutes
History is very atypical, and not obviously syncope and not
obviously seizure. Negative orthostatics per report from ED, and
the fact that this all occurred while sitting would make
orthostasis unlikely as well. No cardiac etiology visible on 
EKG, TTE, or tele while here, but wonder about possibility of an 
arrhythmia? That said,
30 minutes of arrhythmia and 30 minutes of LOC subsequently 
would
likely have led to much more decompensated state. Neuro exam is
non-focal, arguing against a
CNS lesion. No evidence of PE by exam or labs or EKG. 
Work up so far all normal: chest xray normal, CT abd pelvis: no
acute process, labs (Cr mildly elevated), TSH normal,  TTE: no
structural cause of syncope, CT head: no acute process.  EEG: 
brief bursts of bifrontally predominant delta slowing- could bee 
vascular insufficiency of acute or chronic nature.  Talked to 
neuro and EEG findings could not explain LOC. While in hospital 
patient was feeling great.  she felt back to baseline 
completely.  discussed unclear cause of LOC however no clear 
cause after all tests.  if this ever recurs may need more work 
up including longer term event monitoring or neurology 
evaluation. 

#LLE pain: noted on admission. LLE Duplex shows no clot.  pain 
resolved with lidocaine patch. 

# ___: baseline cr appears to be 1.0, was 1.4 on admit, resolved
to 1.0 after IVF. 

# ? Pyuria: pyuria, bacteriuria, and atypical neuro sxs with LLQ
pain, unlikely to be due to UTI. 
- s/p CTX (stopped ___, urine culture skin contaminant- no
symptoms of UTI so will stop antibiotics. 

# ? MCI: patient reports she may have early dementia. This may
account for her not knowing date or for having trouble with days 
of week backwards
in ___. 
- 
- TSH (normal)
- B12, RPR (normal)

# HTN:
- resume quinapril on discharge. 

TRANSITIONAL ISSUES:
[ ] LOC episode: unclear etiology but work up did not show 
culprit as described above.  if an episode occurs again will 
need further work up (cardiac monitoring, neurology consult)
[ ] abnormal EEG: "bursts of bifrontally 
predominant delta slowing in the awake state. This would suggest 
subcortical 
or deeper midline irritability and in its configuration might 
suggest vascular 
insufficiency of acute or chronic nature." not likely the cause 
of LOC per neurology. recommend follow up with primary care.  
outpatient neurology referral if patient/PCP want further 
investigation. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Quinapril 40 mg PO BID 
2. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Acetaminophen 325 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Quinapril 40 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Loss of consciousness.

 
Discharge Condition:
Good. 

 
Discharge Instructions:
You were admitted to ___ for an episode of unconsciousness.  
After many tests at the hospital (CT head, echocardiogram, EEG, 
blood work, abdominal CT scan), we were unable to determine the 
cause of this.  Please follow up with your primary care doctor.  
If you have any feelings of lightheadedness, palpitations, 
weakness, numbness, or symptoms that concern you please seek 
medical attention.  
 
Followup Instructions:
___